US08614217B2
To a stirred solution of 6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)-methyl]pyridin-2-amine (150 mg, 0.485 mmol) in dichloromethane (5 mL), was added pyridine (0.078 mL), 4-chlorobutyl carbonochloridate (166 mg, 0.970 mmol). The reaction mixture was stirred for 5 hours at room temperature, concentrated in vacuo, and then purified by silica gel chromatography to yield to 4-chlorobutyl {6-[({[(Z)-(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate [200 mg; 90% of purity; 84% of to theory; HPLC/MS: m/z=344 (M+H); log P(HCOOH)=3.67].

reactant | 6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)-methyl]pyridin-2-amine | 0.485 mmol, 150 mg | CN1N=NN=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N | C15H15N7O
reactant | pyridine | 0.078 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorobutyl carbonochloridate | 0.970 mmol, 166 mg | C(OCCCCCl)(=O)Cl | C5H8Cl2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-chlorobutyl {6-[({[(Z)-(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate | 200 mg, 90% | CN1N=NN=C1\C(\C1=CC=CC=C1)=N/OCC1=CC=CC(=N1)NC(OCCCCCl)=O | C20H22ClN7O3
